### PR TITLE
Refactor of the (meta)programming facilities

### PR DESCRIPTION
**Pull request by plt-amy**
Can you believe this started as a PR to make `Dec`/`Discrete` into instances?

### CODE REVIEW

File: src/Data/Reflection/Term.agda [hunk 1]
```diff
@@ -0,0 +1,429 @@
...
+    applicable _ = ⊥
+
+    apply : (d : Pattern) ⦃ _ : applicable d ⦄ (arg : Arg Pattern) → Pattern
+    apply (con c ps) a = con c (ps ++ (a ∷ []))
+
+_##ₙ_ : ∀ {ℓ} {A : Type ℓ} ⦃ a : Apply A ⦄ (d : A) ⦃ _ : Apply.applicable a d ⦄ (arg : A) → A
+f ##ₙ x = f ## argN x
+
+_##ᵢ_ : ∀ {ℓ} {A : Type ℓ} ⦃ a : Apply A ⦄ (d : A) ⦃ _ : Apply.applicable a d ⦄ (arg : A) → A
+f ##ᵢ x = f ## argI x
```
Comment (ncfavier) [inline src/Data/Reflection/Term.agda:423]: No `_##ₕ_`?

File: src/Data/Reflection/Term.agda [hunk 2]
```diff
@@ -0,0 +1,429 @@
...
+list-term (x ∷ xs) = con (quote List._∷_) (argN x ∷ argN (list-term xs) ∷ [])
+
+list-pattern : List (Arg Pattern) → Pattern
+list-pattern []       = con (quote List.[]) []
+list-pattern (x ∷ xs) = con (quote List._∷_) (x ∷ argN (list-pattern xs) ∷ [])
+
+record Apply {ℓ} (A : Type ℓ) : Type (lsuc ℓ) where
+  field
+    applicable : A → Type ℓ
+    apply      : (d : A) ⦃ _ : applicable d ⦄ (arg : Arg A) → A
```
Comment (ncfavier) [inline src/Data/Reflection/Term.agda:380]: Given that we're appending lists, should the primitive operation take a `List (Arg A)` for efficiency?

File: src/Data/Reflection/Term.agda [hunk 3]
```diff
@@ -0,0 +1,429 @@
...
+
+_##_
+  : ∀ {ℓ} {A : Type ℓ} ⦃ a : Apply A ⦄ (d : A)
+  → ⦃ _ : Apply.applicable a d ⦄
+  → (arg : Arg A)
+  → A
+_##_ = Apply.apply auto
```
Comment (ncfavier) [inline src/Data/Reflection/Term.agda:387]: I think I'd prefer plumbing in the `a` manually instead of `auto` here for explicitness.

File: src/1Lab/Reflection/Signature.agda [hunk 4]
```diff
@@ -0,0 +1,240 @@
...
+get-record : Term → TC (Name × List (Arg Name))
+get-record tm = reduce tm >>= λ where
+  (def qn _) → get-record-type qn
+  _          → typeError [ "get-record: " , termErr tm , " is not a record type." ]
+
+-- Run a TC computation and reset the state after. If the returned value
+-- makes references to metas generated in the reset computation, you'll
+-- probably get __IMPOSSIBLE__s!
+resetting : ∀ {ℓ} {A : Type ℓ} → TC A → TC A
+resetting k = run-speculative ((_, false) <$> k)
```
Comment (ncfavier) [inline src/1Lab/Reflection/Signature.agda:86]: Does this belong in `1Lab.Reflection`?

File: src/1Lab/Reflection/Signature.agda [hunk 5]
```diff
@@ -0,0 +1,240 @@
...
+  `constructor n g = do
+    (c , _) ← get-record-type n
+    unify g (it Has-constr.from-constr ##ₙ def₀ (quote auto) ##ₙ lit (name c))
+
+_ : Path Term (`constructor Σ) (con₀ (quote _,_))
+_ = refl
+
+-- Check whether a name is defined.
+is-defined : Name → TC Bool
+is-defined nm = (resetting (true <$ get-type nm)) <|> pure false
```
Comment (ncfavier) [inline src/1Lab/Reflection/Signature.agda:150]: Why do we need `resetting` here?

**Review by ncfavier — APPROVED** [review]

File: src/1Lab/Reflection/Subst.agda [hunk 6]
```diff
@@ -37,88 +39,107 @@ raiseS n = wk n ids
...
+subst-tm*    : Subst → List (Arg Term) → List (Arg Term)
+apply-tm     : Term → Arg Term → Term
+subst-tel    : Subst → Telescope → Telescope
+
+instance
+  Has-subst-Term : Has-subst Term
+  Has-subst-Term = record { applyS = subst-tm }
+
+  Has-subst-Clause : Has-subst Clause
+  Has-subst-Clause = record { applyS = subst-clause }
```
Comment (ncfavier) [inline src/1Lab/Reflection/Subst.agda:84]:
```suggestion
  Has-subst-Clause = record { applyS = subst-clause }
  
  Has-subst-Args : Has-subst (List (Arg Term))
  Has-subst-Args = record { applyS = subst-tm* }

  Has-subst-Telescope : Has-subst Telescope
  Has-subst-Telescope = record { applyS = subst-tel }
```

File: src/Meta/Traverse.lagda.md [hunk 7]
```diff
@@ -1,51 +0,0 @@
...
-  Traverse-List : Traverse (eff List)
-  Traverse-List .Traverse.traverse {M = M} {a = a} {b = b} = go where
-    private module M = Effect M
-    go : (a → M.₀ b) → List a → M.₀ (List b)
-    go f []       = pure []
-    go f (x ∷ xs) = ⦇ f x ∷ go f xs ⦈
-
-  Traverse-Maybe : Traverse (eff Maybe)
-  Traverse-Maybe .Traverse.traverse f (just x) = just <$> f x
-  Traverse-Maybe .Traverse.traverse f nothing  = pure nothing
```
Comment (ncfavier) [inline src/Meta/Traverse.lagda.md:50]: I was actually using that!

File: src/1Lab/Reflection/Subst.agda (hunk 6 above)
Comment (ncfavier) [reply src/1Lab/Reflection/Subst.agda:84]: It does work (I am currently rebasing #291 on this)! What we can't have is a generic `Has-subst A → Has-subst (List A)` instance.

**Review by ncfavier — DISMISSED** [review]

**Review by ncfavier — APPROVED** [review]
